US20010027196A1
Following the method of Hull (J. Chem. Soc. 1957, 4845), a stirred suspension of 25.2 g (119 mmol) 2-amino-6-oxo-4-phenyl-1,6-dihydro-pyrimidine-5-carbonitrile in 27.1 ml (297 mmol) phosphorus oxychloride was heated at reflux for 2 h. The reaction mixture was then cooled to about 70° C. and poured cautiously onto rapidly stirred ice-water such that the temperature remained around 10° C. The resulting crystals were collected by filtration to afford 12.0 g (44%) 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile as a light beige crystalline solid. This material was pure enough to be used in subsequent steps, however analytically pure material was obtained by chromatography (ethyl acetate/hexane 1/1) which afforded 5.9 g (22%) 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile as a light yellow crystalline solid. EI-MS m/e (%): 232 (M{37Cl}+, 26), 230 (M{35Cl}+, 80), 190 ([M—Cl]+, 100), 153 (38).

reactant | 2-amino-6-oxo-4-phenyl-1,6-dihydro-pyrimidine-5-carbonitrile | 119 mmol, 25.2 g | NC=1NC(C(=C(N1)C1=CC=CC=C1)C#N)=O | C11H8N4O
reactant | phosphorus oxychloride | 297 mmol, 27.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile | 12.0 g, 44% | NC1=NC(=C(C(=N1)Cl)C#N)C1=CC=CC=C1 | C11H7ClN4
